US05356881
A suspension of 4.7 grams of digoxin in 300 ml of 95% aqueous ethanol containing 4.7 ml of conc. hydrochloric acid was stirred for four days with a bar magnet stirrer at ambient temperature. Crystalline sodium carbonate was added to neutralize the solution. The filtered solution was evaporated to dryness under vacuum resulting in a white semi-solid residue. This was mulled well in 50 ml of water to remove carbohydrates. The air dried product was dissolved in acetone, filtered and the solution was evaporated to dryness. The product was mulled in ethyl ether to yield 2.4 grams of white crystalline digoxigenin hydrate, m.p. 130°-140°. On HPLC in system C the product was homogeneous with a retention time of 15.2 compared with 20.7 min. for digoxin. TLC in system B gave a blue fluorescent spot at Rf 0.64 for digitoxigenin, compared with Rf 0.49 for digoxin.

reactant | digoxin | 4.7 grams | C[C@@H]1[C@H]([C@H](C[C@@H](O1)O[C@@H]2[C@H](O[C@H](C[C@@H]2O)O[C@@H]3[C@H](O[C@H](C[C@@H]3O)O[C@H]4CC[C@]5([C@@H](C4)CC[C@@H]6[C@@H]5C[C@H]([C@]7([C@@]6(CC[C@@H]7C8=CC(=O)OC8)O)C)O)C)C)C)O)O | C41H64O14
reactant | hydrochloric acid | Cl | ClH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 300 ml | C(C)O | C2H6O
solvent | water | 50 ml | O | H2O
product | digoxigenin hydrate | 2.4 grams | C[C@]12CC[C@@H](C[C@H]1CC[C@@H]3[C@@H]2C[C@H]([C@]4([C@@]3(CC[C@@H]4C5=CC(=O)OC5)O)C)O)O.O | InChI=1S/C23H34O5.H2O/c1-21-7-5-15(24)10-14(21)3-4-17-18(21)11-19(25)22(2)16(6-8-23(17,22)27)13-9-20(26)28-12-13;/h9,14-19,24-25,27H,3-8,10-12H2,1-2H3;1H2/t14-,15+,16-,17-,18+,19-,21+,22+,23+;/m1./s1
